US05723614
A solution of 2.3 g of ethyl 5-nitrobenzofuran-2-carboxylate in 60 ml of methanol is hydrogenated in the presence of Raney nickel. The catalyst is filtered off and the solution is concentrated. After customary working up, ethyl 5-aminobenzofuran-2-carboxylate, Rf 0.1 (dichloromethane/ethanol 9.5:0.5) obtained; hydrochloride m.p. 246°-248°.

reactant | ethyl 5-nitrobenzofuran-2-carboxylate | 2.3 g | [N+](=O)([O-])C=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H9NO5
solvent | methanol | 60 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | ethyl 5-aminobenzofuran-2-carboxylate | NC=1C=CC2=C(C=C(O2)C(=O)OCC)C1 | C11H11NO3
